.subckt fdp_x1 Q QN CK D VDD VSS
XFDP_ck_P0 FDP_ck_b CK VDD VDD pmos w=2u l=100n
XFDP_ck_N0 FDP_ck_b CK VSS VSS nmos w=1u l=100n
XFDP_m_in_P FDP_m_n1 CK D VDD pmos w=2u l=100n
XFDP_m_in_N FDP_m_n1 FDP_ck_b D VSS nmos w=1u l=100n
XFDP_m_i1_P0 FDP_m_n2 FDP_m_n1 VDD VDD pmos w=2u l=100n
XFDP_m_i1_N0 FDP_m_n2 FDP_m_n1 VSS VSS nmos w=1u l=100n
XFDP_m_i2_P0 FDP_m_n1 FDP_m_n2 VDD VDD pmos w=2u l=100n
XFDP_m_i2_N0 FDP_m_n1 FDP_m_n2 VSS VSS nmos w=1u l=100n
XFDP_m_fb_P FDP_m_n1 FDP_ck_b FDP_m_n2 VDD pmos w=2u l=100n
XFDP_m_fb_N FDP_m_n1 CK FDP_m_n2 VSS nmos w=1u l=100n
XFDP_m_o_P0 FDP_qm FDP_m_n2 VDD VDD pmos w=2u l=100n
XFDP_m_o_N0 FDP_qm FDP_m_n2 VSS VSS nmos w=1u l=100n
XFDP_s_in_P FDP_s_n1 FDP_ck_b FDP_qm VDD pmos w=2u l=100n
XFDP_s_in_N FDP_s_n1 CK FDP_qm VSS nmos w=1u l=100n
XFDP_s_i1_P0 FDP_s_n2 FDP_s_n1 VDD VDD pmos w=2u l=100n
XFDP_s_i1_N0 FDP_s_n2 FDP_s_n1 VSS VSS nmos w=1u l=100n
XFDP_s_i2_P0 FDP_s_n1 FDP_s_n2 VDD VDD pmos w=2u l=100n
XFDP_s_i2_N0 FDP_s_n1 FDP_s_n2 VSS VSS nmos w=1u l=100n
XFDP_s_fb_P FDP_s_n1 CK FDP_s_n2 VDD pmos w=2u l=100n
XFDP_s_fb_N FDP_s_n1 FDP_ck_b FDP_s_n2 VSS nmos w=1u l=100n
XFDP_s_o_P0 Q FDP_s_n2 VDD VDD pmos w=2u l=100n
XFDP_s_o_N0 Q FDP_s_n2 VSS VSS nmos w=1u l=100n
XFDP_qn_P0 QN Q VDD VDD pmos w=2u l=100n
XFDP_qn_N0 QN Q VSS VSS nmos w=1u l=100n
.ends fdp_x1
